datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])[H])CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])[H])[O-:10])CC 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C(O)C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C(O)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(OCCCCCC)OCCCCCC)C1=CC=CC=C1>>[K][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OCCCCCC)OCCCCCC 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CCCCCC)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CCCCCC)[H] 10=20;20,21=21"
"[H][O:10]C(C)C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(O)C([H])C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C([H])C(O)C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])[H])[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])[H])C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CC.[O-:21]C>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C1=CC=CC=C1)CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])C>>CCN([C:20](=[O:10])OC(C([O-:21])[H])[H])C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CCCCCC)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([O][H])[O]C.[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([O][H])[O]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(C)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C)[NH]1 10=20;20,21=21"
"[O:10]([Na])C([H])/C([H])=C([H])\C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])=C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)CC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CC.[O-:21]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
